US08486946B2
Step 3: Preparation of 2-(2-fluorophenyl)-5-[(4-iodophenyl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
1,3-Bis(2-fluorophenyl)-1H-pyrazole-4,5-dione 4-{[(4-iodophenyl)methyl]hydrazone} (50 mg, 0.097 mmol) was dissolved in degassed dimethylsulfoxide (3.5 mL), treated with potassium carbonate (120 mg, 0.87 mmol, 9.0 equiv) and placed into an oil bath preheated to 120° C. for 15 minutes. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (50 mL, aqueous saturated) and extracted with ethyl acetate (2×75 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 20:80; hexanes:ethyl acetate), providing the titled compound as a dark red solid: 1H-NMR (400 MHz, CDCl3) δ 8.32 (1H, d, J=7.7 Hz), 7.70 (2H, d, J=8.3 Hz), 7.66-7.62 (1H, m), 7.59-7.55 (2H, m), 7.49 (1H, d, J=8.9 Hz), 7.42-7.36 (1H, m), 7.31-7.25 (2H, m), 7.07 (2H, d, J=8.0 Hz), 5.77 (2H, s) ppm; high resolution mass spectrometry (ES+) m/z 497.0278 [(M+H)+; calculated for C22H15FIN4O: 497.0269].

reactant | 1,3-Bis(2-fluorophenyl)-1H-pyrazole-4,5-dione 4-{[(4-iodophenyl)methyl]hydrazone} | 0.097 mmol, 50 mg | IC1=CC=C(C=C1)CNN=C1C(=NN(C1=O)C1=C(C=CC=C1)F)C1=C(C=CC=C1)F | C22H15F2IN4O
reactant | potassium carbonate | 0.87 mmol, 120 mg, 9.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dimethylsulfoxide | 3.5 mL | CS(=O)C | C2H6OS
product | 2-(2-fluorophenyl)-5-[(4-iodophenyl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | FC1=C(C=CC=C1)N1N=C2C(=NN(C=3C=CC=CC23)CC2=CC=C(C=C2)I)C1=O | C22H14FIN4O
